US07196104B2
Preparation EN: (6-Bromo-pyridin-2-yl)-[3-(tetrahydro-pyran-2-yloxy)-propyl]-amine
A solution of 3-(6-bromo-pyridin-2-ylamino)-propan-1-ol (4.2 g, 18 mmol), 3,4-dihydro-2H-pyran (1.6 mL, 18 mmol), TsOH (0.34 g, 1.8 mmol) and CH2Cl2 (100 mL) were stirred at RT. After 15 h, the reaction was quenched with saturated NaHCO3 and extracted with EtOAc. The organic layer was washed with brine, dried (MgSO4) and concentrated in vacuo to give the desired compound as a pale-yellow oil. MS m/z: 316.0 (M+H). Calc'd for C13H19BrN2O2 315.21.

reactant | 3-(6-bromo-pyridin-2-ylamino)-propan-1-ol | 18 mmol, 4.2 g | BrC1=CC=CC(=N1)NCCCO | C8H11BrN2O
reactant | 3,4-dihydro-2H-pyran | 18 mmol, 1.6 mL | O1CCCC=C1 | C5H8O
reactant | TsOH | 1.8 mmol, 0.34 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (6-Bromo-pyridin-2-yl)-[3-(tetrahydro-pyran-2-yloxy)-propyl]-amine | BrC1=CC=CC(=N1)NCCCOC1OCCCC1 | C13H19BrN2O2
